US06559174B2
N-(3,5-Dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester (100 mg, 0.25 mmol) was dissolved in 0.625 mL of MeOH and 0.625 mL of a 0.4 N solution of NaOH in MeOH was added. The resulting mixture was stirred overnight at rt. Volatiles were removed in vacuo and the residue was partitioned between 5% citric acid and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (2X). The combined organic extracts were washed with brine, and dried over anhydrous Na2SO4. The residue obtained after filtration and evaporation of volatiles was purified by flash column chromatography on silica gel eluted with mixtures of CH2Cl2 and MeOH to afford N-(3,5 -dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (85 mg) as a white foam, homogeneous by TLC (9:1 CH2Cl2:MeOH)

reactant | N-(3,5-Dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester | 0.25 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C17H15Cl2NO4S
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 0.625 mL | CO | CH4O
product | N-(3,5 -dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 85 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)O | C16H13Cl2NO4S
